US04588738
A mixture of 2-hydroxy-α-(1-imidazolyl)-acetophenone (3.5 g), and benzaldehyde (200 ml) was heated at 110° C. for 8 hours. The benzaldehyde was evaporated under reduced pressure and the residue, taken up with CH2Cl2 (100 ml), washed with H2O, was extracted with a solution of 8% HCl. The acid solution, neutralized with NaHCO3, extracted with CH2Cl2, dried and evaporated, gave 2 g of trans 2-phenyl-3-(1-imidazolyl)-2,3-dihydro-4H-1-benzopyran-4-one m.p. 199°-203° C.

reactant | 2-hydroxy-α-(1-imidazolyl)-acetophenone | 3.5 g | OC(C(=O)C1=CC=CC=C1)N1C=NC=C1 | C11H10N2O2
solvent | benzaldehyde | 200 ml | C(C1=CC=CC=C1)=O | C7H6O
product | trans 2-phenyl-3-(1-imidazolyl)-2,3-dihydro-4H-1-benzopyran-4-one | 2 g | C1(=CC=CC=C1)[C@@H]1OC2=C(C([C@H]1N1C=NC=C1)=O)C=CC=C2 | C18H14N2O2
